US05814574
(b) Tetrahydrofurfurylcyclopentadiene
To a solution of 26.0 g (101 mmol) tetrahydrofurfuryltosylate prepared according to step (a) above in 200 ml THF cooled to 0° C. was added 63 ml of 2.0M (126 mmol) sodium cyclopentadienylide in THF. The reaction mixture was allowed to warm to room temperature and was stirred for 16 h. 100 ml concentrated aqueous saline solution was then added to the mixture and the product extracted with diethyl ether (3×75 ml). The combined organic fractions were dried over sodium sulphate for 16 h, filtered and the solvents removed under reduced pressure using a rotary evaporator to yield a brown oil. The crude product was distilled under reduced pressure (b.p. 32-°34° C. at 0.3-0.4 mm Hg) to give 7.1 g of a colourless oil (47.3 mmol, 46.9%).

reactant | tetrahydrofurfuryltosylate | 101 mmol, 26.0 g | C(C1CCCO1)OS(=O)(=O)C1=CC=C(C)C=C1 | C12H16O4S
reactant | sodium cyclopentadienylide | 126 mmol, 2.0M | [CH-]1C=CC=C1.[Na+]
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | Tetrahydrofurfurylcyclopentadiene | 47.3 mmol, 7.1 g, 46.9% | C(C1CCCO1)C1=CC=CC1 | C10H14O
